US07820837B2
5-benzyloxy-1-indanone
This product was suspended in acetone (120 mL), and benzyl bromide (10.9 g, 64.0 mmol) and potassium carbonate (12.3 g, 88.9 mmol) were added, and the mixture was heated under reflux under nitrogen atmosphere for 1 hr. The reaction mixture was allowed to cool to room temperature, and ethyl acetate and water were added. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the title compound (14.2 g, 94%) as pale-yellow crystals (recrystallized from ethyl acetate).

reactant | benzyl bromide | 64.0 mmol, 10.9 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 88.9 mmol, 12.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | acetone | 120 mL | CC(=O)C | C3H6O
product | 5-benzyloxy-1-indanone | 14.2 g, 94% | C(C1=CC=CC=C1)OC=1C=C2CCC(C2=CC1)=O | C16H14O2
